US07547679B2
a) (2-Hydroxy-ethyl)-carbamic acid tert-butyl ester
To a stirring solution of ethanolamine (1.96 mL, 32.7 mmol) in dioxane (40 mL) and water (20 mL) saturated solution of NaHCO3 (20 mL) was added. The solution was cooled in ice bath and di-t-butyl dicarbonate (8.0 g) was added portionwise. After 1 hour TLC showed no starting material. EtOAc (50 mL) and water (20 mL) were added, organic layer was separated and evaporated yielding 4.20 g of the oily title compound.

reactant | ethanolamine | 32.7 mmol, 1.96 mL | C(O)CN | C2H7NO
reactant | NaHCO3 | 20 mL | C(=O)(O)[O-].[Na+]
reactant | di-t-butyl dicarbonate | 8.0 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
solvent | dioxane | 40 mL | O1CCOCC1 | C4H8O2
solvent | water | 20 mL | O | H2O
solvent | water | 20 mL | O | H2O
product | (2-Hydroxy-ethyl)-carbamic acid tert-butyl ester | 4.20 g | C(C)(C)(C)OC(NCCO)=O | C7H15NO3
